US07452892B2
A. Preparation of 4-chloro-6-(4-chlorophenyl)pyrimidine
To a mixture of 4,6-dichloropyrimidine (1.49 g, 10.0 mmol), 4-chlorophenylboronic acid (1.72 g, 11.0 mmol) and tetrakis(triphenylphosphine)palladium (1.2 g, 1.0 mmol) in toluene (20 mL) at room temperature under argon was added aqueous Na2CO3 solution (2 M, 10 mL, 20 mmol). The resulting reaction mixture was stirred at 100° C. under argon for 6 h, after which time analysis by HPLC/MS indicated that the reaction was complete. After cooling the reaction mixture to room temperature, water (50 mL) was added. The resulting mixture was extracted with EtOAc (50 mL). The organic layer was washed with saturated aqueous NaCl, then dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by trituration with MeOH (15 mL) to obtain 1.31 g of the title compound as a white solid (purity was about 80% by HPLC analysis). HPLC/MS: retention time=3.65 min, [M+H]30 =225.

reactant | 4,6-dichloropyrimidine | 10.0 mmol, 1.49 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-chlorophenylboronic acid | 11.0 mmol, 1.72 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 20 mmol, 2 M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 50 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-6-(4-chlorophenyl)pyrimidine | 1.31 g | ClC1=NC=NC(=C1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
